US05143643
5-n-octyl-2-[4-(6-pentyloxyheptyloxy)phenyl]pyrimidine;
5-n-octyl-2-[4-(6-ethoxyheptyloxy)phenyl]pyrimidine; 5-n-decyl-2-[4-(6-octyloxyheptyloxy)phenyl]pyrimidine; 5-n-dodecyl-2-4-(6-pentyloxyheptyloxy)phenyl]pyrimidine; 5-n-decyl-2-[4-(6-ethoxyheptyloxy)phenyl]pyrimidine; 5-n-decyl-2-[4-(6-butoxyheptyloxy)phenyl]pyrimidine; 5-n-octyl-2-4-(6-butoxyheptyloxy)phenyl]pyrimidine; and 5-n-decyl-2-4-(6-dodecyloxyheptyloxy)phenyl]pyrimidine.

reactant | 5-n-octyl-2-[4-(6-ethoxyheptyloxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCC(C)OCC | C27H42N2O2
reactant | 5-n-decyl-2-[4-(6-octyloxyheptyloxy)phenyl]pyrimidine | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCC(C)OCCCCCCCC | C35H58N2O2
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
reactant | 5-n-decyl-2-[4-(6-ethoxyheptyloxy)phenyl]pyrimidine | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCC(C)OCC | C29H46N2O2
reactant | 5-n-decyl-2-[4-(6-butoxyheptyloxy)phenyl]pyrimidine | C(CCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCC(C)OCCCC | C31H50N2O2
product | 5-n-octyl-2-[4-(6-pentyloxyheptyloxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCC(C)OCCCCC | C30H48N2O2
